US04551272
250 ml of 25% HBr in glacial acetic acid was added to carbobenzoxyglycyl-L-tyrosine ethyl ester obtained above, and after the mixture was stirred for 30 minutes at room temperature, 5 l of absolute ethyl ether was added to the mixture to produce a precipitate. The precipitate was washed with ethyl ether to obtain glycyl-L-tyrosine ethyl ester·HBr.

reactant | HBr | 250 ml | Br | BrH
reactant | carbobenzoxyglycyl-L-tyrosine ethyl ester | C(C)OC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C21H24N2O6
reactant | ethyl ether | 5 l | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | glycyl-L-tyrosine ethyl ester·HBr | C(C)OC([C@@H](NC(CN)=O)CC1=CC=C(C=C1)O)=O.Br | InChI=1S/C13H18N2O4.BrH/c1-2-19-13(18)11(15-12(17)8-14)7-9-3-5-10(16)6-4-9;/h3-6,11,16H,2,7-8,14H2,1H3,(H,15,17);1H/t11-;/m0./s1
